US06162819
1-Benzyl-3-(5-chlorocarbonyl-2-furyl)indazole:
15 g (0.05 mol) of 1-benzyl-3-(5-carboxy-2-furyl)indazole and 36.43 g (0.31 mol) of thionyl chloride in 400 ml of benzene were heated under reflux for 3 h. The cooled mixture was filtered and concentrated. This gave 11.95 g (approximately 76%) of the title compound which was used for subsequent reactions without any further purification.

reactant | 1-benzyl-3-(5-carboxy-2-furyl)indazole | 0.05 mol, 15 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)O | C19H14N2O3
reactant | thionyl chloride | 0.31 mol, 36.43 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 1-Benzyl-3-(5-chlorocarbonyl-2-furyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)Cl | C19H13ClN2O2
